US08466282B2
Tert-butyl (3R,5S)-3-(morpholin-4-ylcarbonyl)-5-{[(2-nitrophenyl)sulfonyl](propyl)amino}piperidine-1-carboxylate
tert-Butyl (3R,5S)-3-(morpholin-4-ylcarbonyl)-5-{[(2-nitrophenyl)sulfonyl]amino}piperidine-1-carboxylate (4.68 g) was dissolved in DMA (20 ml), cesium carbonate (9.18 g) and 1-iodopropane (1.83 ml) were added, and the mixture was stirred at 60° C. for 4 hr. The reaction mixture was diluted with water, and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (3:7-10:0) was concentrated under reduced pressure to give the object product (4.02 g).

reactant | tert-Butyl (3R,5S)-3-(morpholin-4-ylcarbonyl)-5-{[(2-nitrophenyl)sulfonyl]amino}piperidine-1-carboxylate | 4.68 g | N1(CCOCC1)C(=O)[C@H]1CN(C[C@H](C1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C21H30N4O8S
reactant | cesium carbonate | 9.18 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-iodopropane | 1.83 ml | ICCC | C3H7I
solvent | DMA | 20 ml | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
product | Tert-butyl (3R,5S)-3-(morpholin-4-ylcarbonyl)-5-{[(2-nitrophenyl)sulfonyl](propyl)amino}piperidine-1-carboxylate | 4.02 g | N1(CCOCC1)C(=O)[C@H]1CN(C[C@H](C1)N(CCC)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C24H36N4O8S
